US07517873B2
To a solution of 2.3 g (0.016 mole) of 2-methyl-3-oxobutanoic acid ethyl ester in 50 mL of dichloroethane was added 1.00 g (0.016 mole) of cyclopropylamine. The mixture was stirred for 1.5 hours and then 5.1 g (0.023 mole) of sodium triacetoxyborohydride and 0.96 g (0.016 mole) of acetic acid were added. The mixture was stirred at room temperature for 24 hours and then quenched by the addition of 50 mL of saturated aqueous sodium bicarbonate. The mixture was stirred for 20 minutes. The organic layer was separated and the aqueous layer was extracted with twice with 30 mL of dichloromethane. The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated. Purification of the residue by silica gel chromatography, eluting with hexanes-ethyl acetate (30:70) gave 1.5 g of (rac)-3-cyclopropylamino-2-methyl-butanoic acid ethyl ester.

reactant | 2-methyl-3-oxobutanoic acid ethyl ester | 0.016 mole, 2.3 g | C(C)OC(C(C(C)=O)C)=O | C7H12O3
reactant | cyclopropylamine | 0.016 mole, 1.00 g | C1(CC1)N | C3H7N
reactant | sodium triacetoxyborohydride | 0.023 mole, 5.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.016 mole, 0.96 g | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | (rac)-3-cyclopropylamino-2-methyl-butanoic acid ethyl ester | 1.5 g | C(C)OC(C(C(C)NC1CC1)C)=O | C10H19NO2
